US05254718
Synthesis of 2-methoxy-2-oxoethyl 2-hydroxy-3-methylbutyrate
A 6 mL aliquot of an ethyl ether solution containing 0.25 M 2-chloroethyl 2-hydroxy-3-methylbutyrate, 0.25 M methyl glycolate, and 1.0% tert-butylbenzene was added to 0.40 g Lipase P30. After mixing for 10 d at room temperature, the conversion of 2-chloroethyl 2-hydroxy-3-methylbutyrate to the title compound was estimated (by GC, Method A) to be <20%. The GC peak assigned to the title compound was confirmed by HRMS: calcd for C7H10O5Tms (M--CH3) 247.1001, obsd 247.0973. In identical reactions substituting Lipase AK or porcine pancreatic lipase for Lipase P30, the relative values for conversions at 10 d (Lipase P30=100) were 33 and 0, respectively.

reactant | 2-chloroethyl 2-hydroxy-3-methylbutyrate | 0.25 M | OC(C(=O)OCCCl)C(C)C | C7H13ClO3
reactant | methyl glycolate | 0.25 M | C(CO)(=O)OC | C3H6O3
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-methoxy-2-oxoethyl 2-hydroxy-3-methylbutyrate | OC(C(=O)OCC(=O)OC)C(C)C | C8H14O5
